### PR TITLE
feat: Erdős Problem 288

### PR DESCRIPTION
**Pull request by rao107**
Adds [Erdős Problem 288](https://www.erdosproblems.com/288).

I wasn't sure if the quantifier in the last variant should be forall or exists, but I think exists fits better here? I'm open to being wrong though.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/288.lean [hunk 1]
```diff
@@ -0,0 +1,57 @@
...
+/--
+Is it true that there are only finitely many pairs of intervals $I_1$, $I_2$ such that
+$$
+\sum_{n_1 \in I_1} \frac{1}{n_1} + \sum_{n_2 \in I_2} \frac{1}{n_2} \in \mathbb{N}?
+$$
+-/
+@[category research open, AMS 11]
+theorem erdos_288 : Set.Finite { I : Fin 2 → ℕ × ℕ |
+      ∃ n : ℕ, (∑ j : Fin 2, ∑ nⱼ ∈ Set.Icc (I j).1 (I j).2, (nⱼ⁻¹ : ℚ)) = n
+    } ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/288.lean]:
```suggestion
theorem erdos_288 : Set.Finite { I : Fin 2 → ℕ × ℕ |
      ∃ n : ℕ, (∑ j : Fin 2, ∑ nⱼ ∈ Set.Icc (I j).1 (I j).2, (nⱼ⁻¹ : ℚ)) = n} ↔
    answer(sorry) := by
```

File: FormalConjectures/ErdosProblems/288.lean [hunk 2]
```diff
@@ -0,0 +1,57 @@
...
+  sorry
+
+/--
+This is still open even if $|I_2| = 1$.
+-/
+@[category research open, AMS 11]
+theorem erdos_288.variants.i2_card_eq_1 : Set.Finite { (I, n₂) : (ℕ × ℕ) × ℕ |
+      ∃ n : ℕ, ∑ n₁ ∈ Set.Icc I.1 I.2, (n₁⁻¹ : ℚ) + (n₂⁻¹ : ℚ) = n
+    } ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/288.lean]:
```suggestion
      ∃ n : ℕ, ∑ n₁ ∈ Set.Icc I.1 I.2, (n₁⁻¹ : ℚ) + (n₂⁻¹ : ℚ) = n} ↔
    answer(sorry) := by
```

File: FormalConjectures/ErdosProblems/288.lean [hunk 3]
```diff
@@ -0,0 +1,57 @@
...
+  sorry
+
+/--
+It is perhaps true with two intervals replaced by any $k$ intervals.
+-/
+@[category research open, AMS 11]
+theorem erdos_288.variants.k_intervals : ∃ k > 2, Set.Finite { I : Fin k → ℕ × ℕ |
+      ∃ n : ℕ, (∑ j : Fin k, ∑ nⱼ ∈ Set.Icc (I j).1 (I j).2, (nⱼ⁻¹ : ℚ)) = n
+    } ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/288.lean]:
```suggestion
theorem erdos_288.variants.k_intervals : ∃ k > 2, Set.Finite { I : Fin k → ℕ × ℕ |
      ∃ n : ℕ, (∑ j : Fin k, ∑ nⱼ ∈ Set.Icc (I j).1 (I j).2, (nⱼ⁻¹ : ℚ)) = n} ↔
    answer(sorry) := by
```

**Review by callesonne — COMMENTED** [review]
Thanks for the contribution! I think the math looks good to me, here are some formatting suggestions :)

**Comment by rao107** [comment]
I changed the formatting just a little bit since there is a space at the beginning of the set definition that I think should be kept at the end (though if you feel strongly about the whitespace, I'm more than happy to oblige).

Also, I changed the quantifier for the last variant following [this thread](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Erd.C5.91s.20Problem.20288/) in the Lean Zulip. Thanks to Moritz for finding the source! :slightly_smiling_face:

**Comment by callesonne** [comment]
> I changed the formatting just a little bit since there is a space at the beginning of the set definition that I think should be kept at the end (though if you feel strongly about the whitespace, I'm more than happy to oblige).
> 
> Also, I changed the quantifier for the last variant following [this thread](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Erd.C5.91s.20Problem.20288/) in the Lean Zulip. Thanks to Moritz for finding the source! 🙂

The whitespace was just a mistake on my end. Thanks!

File: FormalConjectures/ErdosProblems/288.lean [hunk 4]
```diff
@@ -0,0 +1,57 @@
...
+  sorry
+
+/--
+It is perhaps true with two intervals replaced by any $k$ intervals.
+-/
+@[category research open, AMS 11]
+theorem erdos_288.variants.k_intervals : ∀ k, Set.Finite { I : Fin k → ℕ × ℕ |
+      ∃ n : ℕ, (∑ j : Fin k, ∑ nⱼ ∈ Set.Icc (I j).1 (I j).2, (nⱼ⁻¹ : ℚ)) = n } ↔
+    answer(sorry) := by
+  sorry
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/288.lean:55]: I think it would be interesting to also add the statement you had before, i.e. there exists a `k > 2` as opposed to for all.

**Review by callesonne — APPROVED** [review]
This is great! LGTM now, apart from this final comment. Thanks a lot!

File: FormalConjectures/ErdosProblems/288.lean (hunk 4 above)
Comment (rao107) [reply FormalConjectures/ErdosProblems/288.lean:55]: added!

**Review by mo271 — APPROVED** [review]
Thanks for the nice contribution
